US05108485
Preparation of 4 (4-Isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-1,3-dimethyl-1H-indazole-5-carboxylic acid
A mixture of methyl 4-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-1,3-dimethyl-1H-indazole-5-carboxylate (0.310 g, 0.905 mmol), 2N sodium hydroxide (0.91 mL, 1.82 mmol) and tetrahydrofuran (11 mL) is stirred for 1.5 hours at 42°-52° C., cooled in an ice bath, acidified to pH 3-3.5 with 5N sulfuric acid and extracted with chloroform. The organic extract is dried (Na2SO4) and concentrated in vacuo to give a residue which is recrystallized from acetonitrile to afford the title product as a white solid (0.160 g, 53.2%), mp 156.5°-166° C.

reactant | methyl 4-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-1,3-dimethyl-1H-indazole-5-carboxylate | 0.905 mmol, 0.310 g | C(C)(C)C1(N=C(NC1=O)C1=C2C(=NN(C2=CC=C1C(=O)OC)C)C)C | C18H22N4O3
reactant | sodium hydroxide | 1.82 mmol, 2N, 0.91 mL | [OH-].[Na+]
reactant | sulfuric acid | 5N | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
product | (4-Isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-1,3-dimethyl-1H-indazole-5-carboxylic acid | 0.160 g, 53.2% | C(C)(C)C1(N=C(NC1=O)C1=C2C(=NN(C2=CC=C1C(=O)O)C)C)C | C17H20N4O3
